US09085517B2
tert-butyl 5-chloro-2-fluoro-4-methylbenzoate
To a stirred solution of 5-chloro-2-fluoro-4-methylbenzoic acid (5.00 g, 26.9 mmol) in tert-butanol (100 mL) was added di-tert-butyl dicarbonate (17.5 g, 80.7 mmol) followed by DMAP (656 mg, 5.40 mmol). The reaction mixture was stirred under nitrogen at 45° C. for 18 hours. The reaction mixture was concentrated under vacuum and dissolved in EtOAc (50 mL). The organic layer was washed with an aqueous solution of 2 M HCl (50 mL), an aqueous solution of 2M NaOH (50 mL) and brine (50 mL). The organic layer was dried over MgSO4 and concentrated under vacuum to give the crude product as a pale yellow oil. This was purified by filtering through a pad of silica washing with 3:7 EtOAc/cyclohexane to give the title compound as a colourless oil (4.60 g, 71%).

reactant | 5-chloro-2-fluoro-4-methylbenzoic acid | 26.9 mmol, 5.00 g | ClC=1C(=CC(=C(C(=O)O)C1)F)C | C8H6ClFO2
reactant | di-tert-butyl dicarbonate | 80.7 mmol, 17.5 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | tert-butanol | 100 mL | C(C)(C)(C)O | C4H10O
catalyst | DMAP | 5.40 mmol, 656 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | tert-butyl 5-chloro-2-fluoro-4-methylbenzoate | 4.60 g, 71% | ClC=1C(=CC(=C(C(=O)OC(C)(C)C)C1)F)C | C12H14ClFO2
